US06710064B2
2-(3,5-Dichlorophenyl)-tetrahydro-imidazo[1,5-a]pyrazine-1,3-dione
Methanesulfonic acid (2.1 mL, 32.7 mmol) was added to an ice-cold solution of 2-(3,5-Dichlorophenyl)-1,3-dioxo-hexahydro-imidazo[1,5-a]pyrazine-7-carboxylic acid tert-butyl ester (2.62 g, 6.54 mmol, Prep. 18) in methylene chloride (50 mL). After 1 h at RT, TEA (5 mL, 36 mmol) was added. The reaction mixture was washed twice with water, dried over sodium sulfate and concentrated in vacuo to yield the above compound (1.7 g) as a white solid. Mp=134° C. (crystallized from diethyl ether).

reactant | Methanesulfonic acid | 32.7 mmol, 2.1 mL | CS(=O)(=O)O | CH4O3S
reactant | 2-(3,5-Dichlorophenyl)-1,3-dioxo-hexahydro-imidazo[1,5-a]pyrazine-7-carboxylic acid tert-butyl ester | 6.54 mmol, 2.62 g | C(C)(C)(C)OC(=O)N1CC2N(CC1)C(N(C2=O)C2=CC(=CC(=C2)Cl)Cl)=O | C17H19Cl2N3O4
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-(3,5-Dichlorophenyl)-tetrahydro-imidazo[1,5-a]pyrazine-1,3-dione | 1.7 g | ClC=1C=C(C=C(C1)Cl)N1C(N2C(CNCC2)C1=O)=O | C12H11Cl2N3O2
